US04312870
The mixture of 650 mg of 1-(p-chlorophenyl)-2-methyl-4-anilinomethylidene-pyrazolidin-3,5-dione, 2.0 g of ethyl polyphosphate and 10 ml of 1,1,2,2-tetrachloroethane is refluxed for 24 hours. The solution is poured onto 10 ml of 2 N aqueous sodium hydroxide and the organic layer chromatographed on silica gel plates, using toluene:ethanol:conc. ammonium hydroxide (80:20:1) as eluent, to yield the 2-(p-chlorophenyl)-1-methyl-pyrazolo[4,3-c] quinolin-3-one with an Rf=0.48. When using dichloromethane:methanol (19:1) as eluent, said compound has the Rf=0.33; it is identical with that of Example 4.

reactant | 1-(p-chlorophenyl)-2-methyl-4-anilinomethylidene-pyrazolidin-3,5-dione | 650 mg | ClC1=CC=C(C=C1)N1N(C(C(C1=O)=CNC1=CC=CC=C1)=O)C | C17H14ClN3O2
reactant | 1,1,2,2-tetrachloroethane | 10 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
solvent | sodium hydroxide | 2 N, 10 ml | [OH-].[Na+]
product | 2-(p-chlorophenyl)-1-methyl-pyrazolo[4,3-c] quinolin-3-one | ClC1=CC=C(C=C1)N1N(C2=C(C=NC=3C=CC=CC23)C1=O)C | C17H12ClN3O
